US07781478B2
A mixture of [4-(6-bromo-3-cyano-1-cyclobutyl-1H-indol-2-yl)-phenyl]-carbamic acid tert-butyl ester (0.17 g, 0.4 mmol), cyclopropylboronic acid (0.047 g, 0.55 mmol), (tert-butyl)3PHBF4 (0.014 g, 0.048 mmol), KF (0.093 g, 1.6 mmol), and Pd2(dba)3-CHCl3, 0.021 g, 0.02 mmol) in THF (2.0 mL) was stirred at 60° C. overnight. The mixture was concentrated, taken up in CH2Cl2 and filtered through Celite. The solid was washed with CH2Cl2 and the filtrate was purified on silica gel (CH2Cl2) to provide [4-(3-cyano-1-cyclobutyl-6-cyclopropyl-1H-indol-2-yl)-phenyl]-carbamic acid tert-butyl ester as a solid (0.10 g, 59%).

reactant | [4-(6-bromo-3-cyano-1-cyclobutyl-1H-indol-2-yl)-phenyl]-carbamic acid tert-butyl ester | 0.4 mmol, 0.17 g | C(C)(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)Br)C1CCC1)=O | C24H24BrN3O2
reactant | cyclopropylboronic acid | 0.55 mmol, 0.047 g | C1(CC1)B(O)O | C3H7BO2
reactant | KF | 1.6 mmol, 0.093 g | [F-].[K+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 CHCl3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd].C(Cl)(Cl)Cl
product | [4-(3-cyano-1-cyclobutyl-6-cyclopropyl-1H-indol-2-yl)-phenyl]-carbamic acid tert-butyl ester | 0.10 g, 59% | C(C)(C)(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)C1CC1)C1CCC1)=O | C27H29N3O2
